US04197311
Preparation of Cyanomethyl Phenethyl Trithiocarbonate
To a solution containing 10.1 g (40 mmol) of potassium phenethyl trithiocarbonate in 100 ml of tetrahydrofuran is added 2.6 ml (40 mmol) of chloroacetonitrile while maintaining the temperature of the reaction mixture at 20°-25° C. The mixture is stirred for 1 hour and concentrated in vacuo. The residue is then taken up in ether, washed with brine, dried with Na2SO4, filtered and concentrated in vacuo. The residue is crystallized from an ether-hexane mixture to give 9.7 g of a yellow solid, cyanomethyl phenethyl trithiocarbonate, melting point 72°-73° C.

reactant | potassium phenethyl trithiocarbonate | 40 mmol, 10.1 g | C(SCCC1=CC=CC=C1)([S-])=S.[K+]
reactant | chloroacetonitrile | 40 mmol, 2.6 ml | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Cyanomethyl Phenethyl Trithiocarbonate | 9.7 g | C(SCC#N)(SCCC1=CC=CC=C1)=S | C11H11NS3
